US08124606B2
4-fluoro-N-methylbenzenesulfonamide (189 mg, 0.999 mmol) and piperazine (430 mg, 4.99 mmol) were combined and the reaction mixture was stirred at 120° C. for 2 h. It was diluted with water (5 mL) and stirred until a fine suspension resulted. The precipitate was filtered, washed with water (5×3 mL) and dried in vacuum to afford N-methyl-4-(piperazin-1-yl)benzenesulfonamide (222 mg, 0.869 mmol, 87% yield) as a white solid. ESI-MS: m/z 256 (M+H)−.

reactant | 4-fluoro-N-methylbenzenesulfonamide | 0.999 mmol, 189 mg | FC1=CC=C(C=C1)S(=O)(=O)NC | C7H8FNO2S
reactant | piperazine | 4.99 mmol, 430 mg | N1CCNCC1 | C4H10N2
solvent | water | 5 mL | O | H2O
product | N-methyl-4-(piperazin-1-yl)benzenesulfonamide | 0.869 mmol, 222 mg, 87% yield | CNS(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C11H17N3O2S
